spice
* NMOS Transistor
M1 2 3 0 0 NMOS_MODEL
* Voltage Sources
VDD 2 0 DC X
? Missing component
* Resistor
RD 2 2 1k
.model NMOS_MODEL NMOS (LEVEL=1)
* Control statements - example placeholders
*.op
*.dc Vin 0 5 0.1
*.end
